US07884119B2
To a solution of 5-amino-3-[3-(benzyloxy)phenylamino]-1-(4-(methyl)phenyl)carbonyl-1H-1,2,4-triazole (Ia-14) (0.50 g, 1.3 mmol) in THF (20 mL) was added cyclohexene (10 mL) and 10% Pd/C (0.10 g). The reaction was stirred at 90° C. under N2 for 48 h, then filtered through diatomaceous earth, washing with THF, and concentrated to give a yellow-orange solid. Purification by flash chromatography (95:5 CH2Cl2/CH3OH) followed by triturated in CH2Cl2 afforded 5-amino-3-[3-(hydroxy)phenylamino]-1-(4-(methyl)phenyl)carbonyl-1H-1,2,4-triazole (Ia-15) (0.05 g, 14%) as a yellow solid: Rf 0.22 (95:5 CH2Cl2/CH3OH); mp (DSC) 2 endothermic events, 214.7-217.5° C., 322.1-329.8° C., 1 exothermic event, 226.8-228.8° C.; 1H NMR (300 MHz, DMSO-d6) δ 9.14 (d, J=8.1 Hz, 2H), 8.13 (d, J=8.2 Hz, 2H), 7.77 (s, 2H), 7.36 (d, J=8.1 Hz, 2H), 6.99-6.94 (m, 3H), 6.29-6.25 (m, 1H), 2.45 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 166.2, 158.2, 157.6, 157.3, 142.9, 142.0, 130.6,129.7, 129.1, 128.5, 107.8, 107.4, 104.0, 21.0; IR (ATR) 3363, 1668 cm−1; APCI MS m/z 310 [C16H15N5O2+H]+; HPLC (Method A) 96.9% (AUC), tR=11.5 min. Anal. Calcd for C16H15N5O2.0.50H2O: C, 60.47; H, 4.92; N, 22.03. Found: C, 60.87; H, 4.65; N, 21.75.

reactant | 5-amino-3-[3-(benzyloxy)phenylamino]-1-(4-(methyl)phenyl)carbonyl-1H-1,2,4-triazole | 1.3 mmol, 0.50 g | NC1=NC(=NN1C(=O)C1=CC=C(C=C1)C)NC1=CC(=CC=C1)OCC1=CC=CC=C1 | C23H21N5O2
reactant | cyclohexene | 10 mL | C1=CCCCC1 | C6H10
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.10 g | [Pd] | Pd
product | 5-amino-3-[3-(hydroxy)phenylamino]-1-(4-(methyl)phenyl)carbonyl-1H-1,2,4-triazole | 0.05 g, 14% | NC1=NC(=NN1C(=O)C1=CC=C(C=C1)C)NC1=CC(=CC=C1)O | C16H15N5O2
